US06720320B2
(S)-5-(4-glycidyloxybenzo(b)furan-2-yl)-3-methylisoxazole
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 5-(4-hydroxybenzo(b)furan-2-yl)-3-methylisoxazole (2.6 g), (S)-glycidyl nosylate (3.1 g) and potassium carbonate (5.0 g), the title compound (2.8 g) was obtained as brown crystals.

reactant | 5-(4-hydroxybenzo(b)furan-2-yl)-3-methylisoxazole | 2.6 g | OC1=CC=CC=2OC(=CC21)C2=CC(=NO2)C | C12H9NO3
reactant | (S)-glycidyl nosylate | 3.1 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-5-(4-glycidyloxybenzo(b)furan-2-yl)-3-methylisoxazole | 2.8 g | C([C@@H]1CO1)OC1=CC=CC=2OC(=CC21)C2=CC(=NO2)C | C15H13NO4
